US06124284
An ice cold solution of (E)-2-(4-fluoro-1-indanylidene)acetyl chloride (2.11 g, 0.01 mol) in dichloromethane (65 mL) was treated with a 30% aqueous solution of ammonium hydroxide (2.63 ml, 0.02 mol), and the mixture was stirred for 18 h. Hexane was added to the mixture, and the solids were collected by filtration to give 1.63 g of crude product. Recrystallization from acetonitrile:water mixtures gave 1.11 g (58%) of (E)-2-(4-fluoro-1-indanylidene)-acetamide as a white solid; m.p., 198-200° C.

reactant | (E)-2-(4-fluoro-1-indanylidene)acetyl chloride | 0.01 mol, 2.11 g | FC1=C2CC/C(/C2=CC=C1)=C\C(=O)Cl | C11H8ClFO
reactant | ammonium hydroxide | 0.02 mol, 2.63 ml | [OH-].[NH4+]
reactant | Hexane | CCCCCC | C6H14
solvent | dichloromethane | 65 mL | ClCCl | CH2Cl2
product | (E)-2-(4-fluoro-1-indanylidene)-acetamide | 1.11 g, 58% | FC1=C2CC/C(/C2=CC=C1)=C\C(=O)N | C11H10FNO
